US09238647B2
Step F: Methyl 4-(4-fluorophenyl)-2-isopropyl-1-methyl-1H-benzimidazole-6-carboxylate
To a solution of methyl 4-(4-fluorophenyl)-2-isopropyl-1H-benzimidazole-6-carboxylate (10.0 mg, 32.0 μmol) and cesium carbonate (26.1 mg, 80.0 μmol) in N,N-dimethylformamide (64 μL) was added iodomethane (3.0 μL, 48.0 μmol). The mixture was stirred at ambient temperature for 15 min. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (6.4 mg): LC-MS [M+1]=327.1.

reactant | methyl 4-(4-fluorophenyl)-2-isopropyl-1H-benzimidazole-6-carboxylate | 32.0 μmol, 10.0 mg | FC1=CC=C(C=C1)C1=CC(=CC=2NC(=NC21)C(C)C)C(=O)OC | C18H17FN2O2
reactant | cesium carbonate | 80.0 μmol, 26.1 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 48.0 μmol, 3.0 μL | IC | CH3I
solvent | N,N-dimethylformamide | 64 μL | CN(C=O)C | C3H7NO
product | Methyl 4-(4-fluorophenyl)-2-isopropyl-1-methyl-1H-benzimidazole-6-carboxylate | 6.4 mg | FC1=CC=C(C=C1)C1=CC(=CC=2N(C(=NC21)C(C)C)C)C(=O)OC | C19H19FN2O2
